Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
___: TAVR 
___: in CCU post procedure, completed treatment of UTI with 
antibiotics 
___: Thrombin injection to left groin pseudoaneurysm; 
developed low urine output and gradual increase in creatinine to 
a high of 4.0 on ___. Strict I&O's, daily weights continued 
___: Repeat U/S of left femoral artery - stable, no 
resurgence of pseudoaneurysm; started on nutritional supplements 
(Glucerna) to help manage solutes (e.g. Sodium, hyponatremia) 

 
History of Present Illness:
Mr. ___ is an ___ year-old MALE with PMHx signif for Afib (not 
on anticoagulation - he had been trialed on Coumadin but had 
difficulty managing his dosing and INRs and was trialed on 
Eliquis but had bleeding and a significant increase in his 
creatinine after which it was discontinued, with a plan to 
revisit anticoagulation following his TAVR), CKD StageIII-IV, 
Insulin-dependent DM type II, moderate COPD and recent diagnosis 
of severe AS with multiple recent hospitalizations for 
decompensated heart failure (Last EF ___ on TEE on ___, who 
presented in CHF exacerbation and is now s/p TAVR. 
Patient initially presented to ED on ___ for worsening dyspnea 
and weakness. He had previously been scheduled for TAVR in the 
next few weeks but his TAVR procedure was moved up in the 
setting of worsening systolic and diastolic HF. During course of 
hospital stay, patient was found to have small bilateral pleural 
effusions on initial CXR. He had been getting diuresed gently 
due to pre-load dependence. He also has underlying hyponatremia, 
seen chronically pre-admission, which has been improving 
throughout his hospital stay with fluid restriction.

The patient was most recently discharged from ___ on 
___ after a 2 day stay for worsening dyspnea and volume 
overload. He has been experiencing dyspnea for the past ___ years, 
with an acute worsening in the past few months. He says that he 
now cannot make it from his room in his assisted living facility 
to the dining room before getting severely dyspneic and having 
to take a break.

 
Past Medical History:
Severe/critical AS
Acute on chronic diastolic/systolic HF with last EF ___
CKD Stage III-IV (GFR 34)
AFIB-no anticoagulation
Bicuspid aortic valve
COPD, moderate
Pulmonary HTN
HTN
Diabetes Type 2, on insulin
Hyperlipidemia
Pancreatitis
Anemia
Kidney stones
C diff colitis- Distant history of C diff colitis. 
BPH
macular degeneration

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
=================
ADMISSION PHYSICAL EXAM
=================
VS: 95.8 110 121/61 17 96% 6L/face mask
GENERAL: After BiPAP. Thin ___ yo gentleman in NAD. AAOx3. 
Conversational. 
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. Lips and oral mucosa dry and cracked. 
NECK: Supple. JVP of 8-9 cm. Soft, tender tissue swelling ~2 by 
4 cm above left subclavian over access site, scant blood on 
dressing.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Irregular rhythm. III/VI systolic murmur heard best at 
LSB.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema. +2 radial pulses bilaterally. Left hand 
slightly cool.
SKIN: 1 cm cyst at posterior neck
PULSES: Distal pulses palpable and symmetric.

=================
DISCHARGE PHYSICAL EXAM ___

=================

VS: T 97.6 HR 67 RR 18 BP 138/71 95% RA
PHYSICAL EXAM:  
 Gen: No acute distress, lying/sitting in bed, very pleasant.  
 Neck/JVD: No JVD noted
 CV: Irregular, +III/VI systolic murmur
 Chest: Lung sounds diminished bilaterally, no crackles.
 ABD:  Soft, non-tender, +bs +BM ___
 Extr: No ankle edema, extremities are warm/well-perfused with 
diffuse ecchymosis. 
       1 ___ pulses bilaterally, palpable.  
 Access sites: L groin site with large area of surrounding 
bruising without significant swelling, improved over ___, 
ecchymosis on anterior and medial aspect of thigh, non-tender, 
no bruit - area decreasing in size and improved over ___ no 
bleed or bruit noted
 R groin site OTA no drainage, bleed or bruit noted
 Diffuse ecchymosis thighs and distal ___
 Left chest/shoulder/subclavian access site with large amount of 
bruising, no significant swelling, mildly tender to palpation, 
skin intact over the incision site without bleeding or drainage. 
Appears to be developing keloid scarring
 Skin:  Warm/dry 
 Neuro: Alert, oriented x 3, no focal deficits

 
Pertinent Results:
CXR ___:
COMPARISON:  Chest radiograph ___ 
FINDINGS:    
A moderate left and small right pleural effusion are grossly 
unchanged.  
Cardiomediastinal silhouette is overall unchanged.  There is a 
background of mild pulmonary edema, similar to prior.  There is 
no pneumothorax. 
  
IMPRESSION:  
Moderate left and small right pleural effusions.  Background 
pulmonary edema, similar to prior. 

CARDIAC CATH REPORT (TAVR OP REPORT) ___:
Successful insertion of TAVR

CARDIAC ECHO ___:
The left atrium is mildly dilated. The estimated right atrial 
pressure is at least 15 mmHg. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is mild global left ventricular hypokinesis (LVEF 
= 43 %). The right ventricular free wall is hypertrophied. Right 
ventricular chamber size is normal with moderate global free 
wall hypokinesis. There is abnormal septal motion/position 
consistent with right ventricular pressure/volume overload. The 
ascending aorta is mildly dilated. A bioprosthetic aortic valve 
prosthesis is present. The transaortic gradient is normal for 
this prosthesis. A paravalvular jet of mild-to-moderate aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate (2+) mitral regurgitation is seen. Moderate 
to severe [3+] tricuspid regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

 Compared with the prior study (images reviewed) of ___ 
aortic valve bioprosthesis now present. Mild-to-moderate 
paravalvular aortic regurgotation. Left ventricular ejection 
fraction significantly increased.  

ULTRASOUND ___:
EXAMINATION:  UNILAT LOWER EXT VEINS 
  
FINDINGS:  
  
In the left groin is a 3.2 x 2.6 x 1.9 cm pseudo aneurysm with a 
narrow ___rising from the left common femoral artery, 
with to and fro flow 
throughout the pseudoaneurysm.  The adjacent common femoral vein 
is grossly patent.  There is atherosclerotic calcification. 
  
IMPRESSION:  
  
3.2 x 2.6 x 1.9 cm left common femoral artery pseudoaneurysm 
with a 3 mm neck. 

FOLLOW UP ULTRASOUND post thrombin embolization ___:

COMPARISON:  Femoral vascular ultrasound ___, a 
pseudoaneurysm 
embolization ___ 
  
FINDINGS:  
  
Transverse and sagittal images were obtained of the left groin.  
There is an oval complex structure seen in the left groin 
consistent with the embolized pseudoaneurysm.  This structure 
measures 3.3 x 1.6 x 3.6 cm.  No vascular flow is identified 
within the structure on Doppler imaging. Appropriate venous flow 
is seen in the left CFV.  Appropriate arterial waveforms are 
seen in the left CFA. 
  
IMPRESSION:  
  
Thrombosed pseudoaneurysm visualized in the left groin. 

ADMISSION LABS:
___ 04:25AM BLOOD WBC-7.3 RBC-3.72* Hgb-12.3* Hct-35.6* 
MCV-96 MCH-33.1* MCHC-34.6 RDW-14.1 RDWSD-49.3* Plt ___
___ 09:08PM BLOOD WBC-8.0 RBC-3.82* Hgb-12.7* Hct-37.1* 
MCV-97 MCH-33.2* MCHC-34.2 RDW-14.1 RDWSD-49.8* Plt ___
___ 04:25AM BLOOD Neuts-70.7 Lymphs-10.3* Monos-13.2* 
Eos-4.7 Baso-0.8 Im ___ AbsNeut-5.17 AbsLymp-0.75* 
AbsMono-0.96* AbsEos-0.34 AbsBaso-0.06
___ 09:08PM BLOOD Glucose-166* UreaN-25* Creat-2.0* Na-126* 
K-4.6 Cl-87* HCO3-26 AnGap-18
___ 04:25AM BLOOD Glucose-153* UreaN-25* Creat-1.9* Na-122* 
K-4.7 Cl-86* HCO3-25 AnGap-16
___ 04:25AM BLOOD estGFR-Using this
___ 09:08PM BLOOD CK(CPK)-67
___ 04:25AM BLOOD CK(CPK)-55
___ 09:08PM BLOOD CK-MB-2 cTropnT-0.02*
___ 04:25AM BLOOD CK-MB-2 cTropnT-0.03*
___ 09:08PM BLOOD Calcium-9.0 Phos-3.7 Mg-1.8

CKD/ELECTROLYTE PANEL TRENDING:
___ 07:50AM BLOOD UreaN-60* Creat-3.1* Na-126* K-5.1 Cl-89* 
HCO3-27 AnGap-15
___ 06:45AM BLOOD UreaN-69* Creat-3.6* Na-118* K-4.8 Cl-84* 
HCO3-25 AnGap-14
___ 05:46AM BLOOD Glucose-135* UreaN-68* Creat-4.0*# 
Na-119* K-5.0 Cl-82* HCO3-25 AnGap-17
___ 06:10AM BLOOD Glucose-176* UreaN-65* Creat-3.4* Na-122* 
K-5.0 Cl-82* HCO3-23 AnGap-22*
___ 05:45AM BLOOD Glucose-186* UreaN-51* Creat-2.8* Na-118* 
K-5.6* Cl-85* HCO3-28 AnGap-11
___ 05:35AM BLOOD Glucose-188* UreaN-35* Creat-2.2* Na-125* 
K-5.0 Cl-86* HCO3-24 AnGap-20
___ 05:15PM BLOOD Glucose-153* UreaN-28* Creat-2.0* Na-125* 
K-4.2 Cl-87* HCO3-27 AnGap-15
___ 06:15AM BLOOD UreaN-29* Creat-2.0* Na-126* K-4.0 Cl-85* 
HCO3-29 AnGap-16
___ 07:05AM BLOOD Glucose-102* UreaN-31* Creat-2.2* Na-126* 
K-3.9 Cl-86* HCO3-30 AnGap-14
___ 07:25PM BLOOD UreaN-31* Creat-2.4* Na-125* K-4.2 Cl-85* 
HCO3-29 AnGap-15
___ 05:30AM BLOOD UreaN-31* Creat-2.4* Na-126* K-4.1 Cl-87* 
HCO3-26 AnGap-17
___ 03:07PM BLOOD UreaN-27* Creat-2.0* Na-126* K-3.9 Cl-88*
___ 07:45AM BLOOD UreaN-48* Creat-2.5* Na-128* K-4.7 Cl-92* 
HCO3-28 AnGap-13
___ 07:20AM BLOOD UreaN-38* Creat-2.2*# Na-128* K-5.0 
Cl-92* HCO3-27 AnGap-14

___:
___ 07:20AM BLOOD ___
___ 07:45AM BLOOD ___
___ 07:50AM BLOOD ___
___ 06:45AM BLOOD ___
___ 05:46AM BLOOD ___ PTT-34.4 ___
___ 06:10AM BLOOD ___ PTT-28.1 ___
___ 05:45AM BLOOD Plt ___
___ 05:35AM BLOOD ___ PTT-33.6 ___
___ 05:15PM BLOOD ___
___ 07:05AM BLOOD ___ PTT-69.4* ___

DISCHARGE LABS:
___ 07:20AM BLOOD Hct-28.7* Plt ___
___ 07:20AM BLOOD ___
___ 07:20AM BLOOD UreaN-38* Creat-2.2*# Na-128* K-5.0 
Cl-92* HCO3-27 AnGap-___ year-old MALE with PMHx of HTN, HLD, Insulin dependent DM II, 
moderate COPD, acute on chronic systolic/diastolic CHF and 
critical AS, CKD Stage III-IV (GFR 34) who was admitted in CHF 
exacerbation, diuresed and underwent TAVR ___, then 
transferred to CCU s/p TAVR for post-procedure monitoring.  He 
was transferred back to the general floor on ___.

# Severe aortic stenosis NYHA Class III-IV (EF ___: The 
patient underwent TAVR ___, approach initially through left 
femoral with subsequent left subclavian cut down and placement 
of 29 mm EVOLUT-R-US. Post-TAVR TTE showed well-seated aortic 
valve without significant stenosis or regurgitation. He 
developed a left shoulder hematoma after left subclavian cut 
down; hemostasis was achieved and the patient remained 
neurovascularly intact. He was started on aspirin 81 mg and 
Plavix 75 daily. He was started on Coumadin ___ and was 
given 5 mg for two days, with a rise to 2.6 on ___, he was then 
given 2.5 mg on ___ and his INR was 3.4.  His Coumadin 
continued to be held thereafter.  At the time of this discharge 
summary, it is anticipated that he may likely only need minimal 
Coumadin daily to maintain a therapeutic INR.  This will be 
managed by his PCP on discharge from rehab. The PCP should be 
contacted prior to discharge from rehab to establish ___ 
services and INR management. 

# Hyponatremia: Baseline 122 to 128.  He dropped to 118 while 
hospitalized. His serum and urine Osms were followed and he was 
given gentle fluids as appropriate. Nephrology was consulted. He 
was placed on a tighter fluid restriction (1.2 liters) with 
strict I&O's and daily weights with gradual improvement.  
Nutritional supplements were added on ___ to help with solute 
intake (Glucerna, given his history of insulin dependent 
diabetes).  He rose to 128 on ___.  He was near euvolemic on 
___ with no lower extremity edema and no elevation of JVD. 
 

# ___: Stage III, baseline CR 2.0 which was elevated post 
procedure.  This peaked at 4.0 on ___, and Nephrology was 
involved and closely following from ___.  As noted above, he 
was gently hydrated and felt to have been overdiuresed post 
procedure with tight fluid restriction thereafter and careful 
fluid management, daily weights and I&O's.  He was trending down 
to 3.1 on ___ and will continue to be carefully monitored.  
Creatinine was 2.5 on ___ and improved significantly.  His 
foley catheter was discontinued and he is due to void.  He will 
likely discharge to rehab when he is at or near his baseline 
creatinine, currently expected to be ___.  He will follow 
up with Nephrology in ___ given his CKD.  An 
appointment will be established prior to his discharge from 
___.  He will continue with a fluid restriction, to be 
relaxed to 1.5 liters on discharge, with strict I&O monitoring 
and daily weights.  This should continue at discharge from rehab 
as well.

# Chronic Systolic/Diastolic Heart Failure: He was originally 
admitted for acute on chronic systolic/diastolic heart failure. 
He has a history of multiple recent exacerbations most likely 
secondary to critical AS. CXR on admission showed some signs of 
overload, though he was clinically well. He was not given an 
___ given his CKD. His home dose Metoprolol was 
temporarily replaced with Metoprolol 12.5 mg Q6. He was diuresed 
with Lasix according to fluid status and his diuretic has been 
held while normalizing his renal function and sodium levels.  
His home Digoxin was discontinued on ___ per the Structural 
Heart team.  It was felt he could be better managed for rate 
control with his atrial fibrillation on an increased dose of 
Metoprolol.  This had been increased early in his stay but he 
had some episodes of low blood pressure.  This has since 
stabilized and at the time of this discharge summary, his dose 
of Metoprolol Tartrate has been increased to 25 mg TID.  He 
tolerated this well with stable blood pressures and heart rate 
in the 70's.  He was changed back to long acting Toprol at the 
increased dose of 37.5 mg BID. If his heart rate and blood 
pressure hold, he has room to increase the Toprol to 50 mg if 
needed, his telemetry has remained stable in the ___ the last 
several days. No ___ was added due to his renal 
function.

# Hypercarbia: Patient initially presented with CO2 retention 
after TAVR. His blood gas improved after 1.5 hrs BiPAP. The 
hypercarbia was felt to be secondary to sedation and decreased 
inspiratory effort. He improved clinically and was weaned from 
O2 and BiPAP.

# UTI: Urine culture on ___ grew Ceftriaxone sensitive Proteus; 
Urine cx on ___ was contaminated.  Patient was being treated for 
a presumed UTI with Ceftriaxone in ED x 1. He was started on 
Bactrim (three doses following admission, then started on Cipro 
for two doses) and ultimately restarted on Ceftriaxone x two 
doses which was completed.  No repeat UA was performed.  Was 
also given 3 doses of Bactrim as well. Then received 
ciprofloxacin ___ and ___ 

# Atrial Fibrillation: Poorly controlled with resting rates of 
100 and spikes to 130 with activity while on 25 mg Toprol daily 
at the floor. He was rate controlled with metoprolol 50 XL at 
home, most recently placed on Metoprolol 12.5 Q6 (pt was briefly 
tried on metoprolol 25 QID but had BP decrease on ___. 
CHADS2VASC of 5. On ___ his Digoxin was discontinued per the 
Structural Heart team and his heart rate continued to re-spike 
to the 90's with a stable blood pressure in the 120's systolic.  
At this point he was started on Metoprolol 25 mg TID with a plan 
to transition to Toprol XL 37.5 mg BID at the time of discharge. 
 The patient had been on Eliquis in the past but had episodes of 
epistaxis and elevated creatinine and decline in renal function 
and it was discontinued.  He had been on warfarin in the past 
but was confusing doses in his assisted living facility and his 
INR was difficult to manage. Initially he was anticoagulated 
with ASA 81 mg and Plavix 75mg daily post operatively, and the 
Plavix was ultimately discontinued. He was re-started on 
Coumadin at 5mg on ___ and currently has a supratherapeutic INR 
of 3.4 and his Coumadin has been held.  It is anticipated he 
will not require high doses of Coumadin given his renal function 
and risk of bleeding.  It should continue to be monitored daily 
and titrated to a simple daily dose when his INR stabilized.  He 
will follow up with both his PCP and ___ on discharge 
from rehab.  INR on ___ trending down to 31.3 and 2.8 
respectively with no dose given on ___.
 
# Insulin Dependent DM2: he reports using a sliding scale 
insulin at bedtime with Levemir and a sliding scale which will 
be clarified prior to discharge from ___.  He will 
require close follow up with his PCP at discharge from rehab and 
should have tighter control surrounding his insulin management.  
His home Levemir dose of 2 units for FSBS > 249 at ___ was 
ordered to resume.  He reports episodes of AM hypoglycemia in 
the past and should follow up with his PCP at discharge from 
rehab, with an appointment to be established by rehab prior to 
his discharge there.  He should continue a sliding scale insulin 
___ scale included with his discharge reconciliation) 

#Leukopenia, possibly secondary to Bactrim. He had no signs of 
infection (other than UTI as above) while admitted. This was 
monitored but not intervened upon and normalized to 7.9 on 
___.

=
=
=
=
=
=
=
=
================================================================
CHRONIC AND CURRENTLY STABLE ISSUES
=
=
=
=
=
=
=
=
================================================================
# HLD: He was continued on his home simvastatin

# COPD: He was continued on his home Albuterol inhalers prn.

# BPH: He was continued on his home finasteride and tamsulosin.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Calcium Carbonate 500 mg PO TID 
3. Allopurinol ___ mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Digoxin 0.125 mg PO 3X/WEEK (___) 
6. Simvastatin 20 mg PO QPM 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Furosemide 60 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Pantoprazole 40 mg PO Q24H 
11. Tamsulosin 0.4 mg PO QHS 
12. Vitamin D ___ UNIT PO DAILY 
13. tiotropium-olodaterol 2.5-2.5 mcg/actuation inhalation DAILY 

14. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze 
15. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
16. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using aspart Insulin
17. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using levemir Insulin

 
Discharge Medications:
 
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Warfarin 1 mg PO DAILY16 
Take 1 mg ___, check INR ___ manage closely given history  
3.  Insulin SC 
      Sliding Scale

Fingerstick Breakfast, lunch, dinner, bedtime
Insulin SC Sliding Scale using HUM Insulin 
4.  Metoprolol Succinate XL 37.5 mg PO BID  
5.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze  
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
7.  Allopurinol ___ mg PO DAILY  
8.  Calcium Carbonate 500 mg PO TID  
9.  Ferrous Sulfate 325 mg PO DAILY  
10.  Finasteride 5 mg PO DAILY  
11.  Levemir (insulin detemir) 2 units subcutaneous QHS:PRN 
For FSBS > = 249  
12.  Multivitamins 1 TAB PO DAILY  
13.  Pantoprazole 40 mg PO Q24H  
14.  Simvastatin 20 mg PO QPM  
15.  Tamsulosin 0.4 mg PO QHS  
16.  tiotropium-olodaterol 2.5-2.5 mcg/actuation inhalation 
DAILY  
17.  Vitamin D ___ UNIT PO DAILY  
18. HELD- Furosemide 60 mg PO DAILY  This medication was held. 
Do not restart Furosemide until follow up with Cardiology. 
Manage daily wts, fluid restr. may need to give lower dose 
___ mg) PRN Daily if needed.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Aortic stenosis

SECONDARY
1-Acute on chronic decompensated systolic dysfunction - 
euvolemic at discharge
2-Urinary tract infection - treated with antibiotics while 
hospitalized
3-Atrial fibrillation (Chronic)- discontinued Digoxin, increased 
dose of Metoprolol Tartrate
4-Hyponatremia - now back at baseline (126)
5-Acute Kidney Injury on Chronic kidney disease - improving with 
tighter fluid restriction, daily weights, strict intake and 
output measurement and nutrition supplements
6-Pseudoaneurysm-left common femoral artery s/p successful 
thrombin injection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you were short of 
breath. This happened because of tightness of one of your heart 
valves. You underwent evaluation for a transaortic heart valve 
previously and were admitted for a heart valve replacement on 
___. 

You were also treated for a urinary tract infection, which is 
now better. While hospitalized, you had an acute kidney injury 
on your underlying chronic kidney disease, likely due to 
contrast dye from your procedure and multiple medications.  

In addition, you have been noted to have low sodium 
(hyponatremia) at admission and noted in the recent past. You 
were placed on a fluid restriction and a low sodium diet, which 
should continue at discharge.  You were weighed daily and your 
intake and output was closely measured. You were placed on 
nutrition supplements to help with your sodium levels, since you 
are diabetic, this is Glucerna as opposed to Ensure supplements. 
 You should continue with a 1.5 liter fluid restriction 
permanently at discharge, your intake and output measured while 
at rehab and counted when at home.  This includes food that 
melts at room temperature (jello, ice cream, popsicles).  You 
should weigh yourself daily and if your weight goes up ___ lbs 
in one to two days contact your PCP or ___ immediately. 


Nephrology followed you closely while here and given your kidney 
function status, recommend that you follow with an outpatient 
nephrologist.  An appointment has been established for you with 
Dr. ___ at ___.  This will help you to monitor and 
manage your kidney function along with your current other 
medical conditions such as your heart function.  While 
hospitalized, your Digoxin was discontinued and your Metoprolol 
dose was changed. At home you took 25 mg twice Daily, and while 
here it was increased to short acting Metoprolol 25 mg three 
times daily. If your heart rate remains stable, you will be 
discharged on 37.5 mg long acting Toprol twice Daily. Your Lasix 
has been kept on hold following your acute kidney injury and you 
have remained euvolemic the last 48 hours. Your scheduled Lasix 
will not be resumed at discharge.  This will be re-evaluated at 
a follow up appointment, however you should continue with daily 
weights and close management of your fluid restriction and low 
sodium diet.  If any fluid needs to be diuresed, we recommend a 
PRN Lasix dose given your medical history.

Additionally, you developed a pseudoaneurysm post procedure and 
underwent successful guided thrombin injection to embolize the 
pseudoaneurysm.  A repeat ultrasound to re-assess the groin was 
performed ___ and was found to remain stable.

You will be given medicines called Coumadin and Aspirin when you 
leave the hospital. These medicines are important to prevent 
blood clots. You had been tried on Eliquis in the past due to 
your history of atrial fibrillation but had some bleeding and an 
increase in your creatinine and a decline in your kidney 
function at that time as well. While at rehab, the Rehab will 
manage your Coumadin with an INR goal of ___.  At discharge, 
this will be managed by your PCP.  Your PCP should be contacted 
prior to discharge from rehab so that visiting nurse and INR 
draws can be scheduled and coordinated.  Your daily dose at 
discharge from ___ is 1 mg, but your INR should be monitored 
at rehab closely, as it has been high prior to your discharge 
from ___.  With your underlying kidney function and 
your history of difficult to manage INRs we recommend at a 
minimum 1 mg Coumadin daily and to check your INR ___ and once 
stable on a chronic dose, at least twice weekly until the 
facility is certain that you are stable on that regimen.

You should weigh yourself every morning, call your doctor if 
your weight goes up more than 3 lbs in ___ hours. Continue a 
low sodium 2 gram carb consistent diet with Glucerna shakes two 
to three times daily. You should maintain a 1.5 liter fluid 
restriction daily.

Your insulin home dose of Levemir was held (you indicated you 
were on a sliding scale for this at home) along with a sliding 
scale insulin at home and you were maintained on a sliding scale 
insulin while at ___. At discharge, you will be discharged on 
your Levemir scale, and the sliding scale insulin while at 
___.  You should follow up with your PCP as previously 
mentioned post discharge from rehab and review ongoing 
management of your blood glucose.

 
Followup Instructions:
___